US05446189
A mixture of 0.918 g of N-(carboxymethyl)-N-[3-(octadecyloxy)-5-[5-[2,3-bis(phenylmethoxy)phenyl]pentoxy]phenyl]glycine and 0.3 g of 10% palladium on carbon in 50 ml of tetrahydrofuran was stirred under a hydrogen atmosphere for 4 hours when absorption ceased. The catalyst was removed by filtration through a Celitepad and the filtrate was concentrated to a solid which was triturated with hexane and filtered to give 0.653 g (92% yield, mp 129°-131°) of N-(carboxymethyl)-N-[3-[5-(2,3-dihydroxyphenyl)pentoxy]-5-(octadecyloxy)phenyl]glycine.

reactant | N-(carboxymethyl)-N-[3-(octadecyloxy)-5-[5-[2,3-bis(phenylmethoxy)phenyl]pentoxy]phenyl]glycine | 0.918 g | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC | C53H73NO8
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(carboxymethyl)-N-[3-[5-(2,3-dihydroxyphenyl)pentoxy]-5-(octadecyloxy)phenyl]glycine | 0.653 g, 92% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCCCC1=C(C(=CC=C1)O)O | C39H61NO8
